US04728655
To a solution of 2.44 g of 2-[[(5-methyl-1H-imidazole-4-yl)methyl]thio]ethanamine (prepared according to British Pat. No. 1,338,169) in 50 ml of methanol, 13.3 ml of 1.45M methanol potassium hydroxide are added at 0° C. To the resulting solution, 2.47 g of ethyl N-p-chlorobenzene-sulphonylformimidate are added at room temperature and stirring. The mixture is kept under stirring for 1 hour at room temperature, then filtered off and the solvent is removed by distillation at reduced pressure. The formed residue is purified by dissolving in 50 ml of ethyl acetate and 25 ml of water. Then, it is acidulated with 3N hydrochloric acid till pH2. The organic phase is cast aside and the aqueous phase is basified in the presence of 50 ml of ethyl acetate with 1N sodium hydroxide till pH8. The organic phase is washed with water, dried over magnesium sulphate and evaporated to dryness. 2.3 g (oily product) of N-p-chlorobenzene-sulphonyl-N'-[2 -[[(5-methyl-1H-imidazole-4-yl)methyl]thio]ethyl]formamidine are obtained.

reactant | 2-[[(5-methyl-1H-imidazole-4-yl)methyl]thio]ethanamine | 2.44 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | methanol potassium hydroxide | 1.45M, 13.3 ml | [OH-].[K+].CO
reactant | ethyl N-p-chlorobenzene-sulphonylformimidate | 2.47 g | ClC1=CC=C(C=C1)S(=O)(=O)N=COCC | C9H10ClNO3S
solvent | methanol | 50 ml | CO | CH4O
product | N-p-chlorobenzene-sulphonyl-N'-[2 -[[(5-methyl-1H-imidazole-4-yl)methyl]thio]ethyl]formamidine | 2.3 g | ClC1=CC=C(C=C1)S(=O)(=O)NC=NCCSCC=1N=CNC1C | C14H17ClN4O2S2
